US08664207B2
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-1-(phenylamino)-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one
Crude (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-1-chloro-5-methyl-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one (approx. 0.03 mmol) is dissolved in anhydrous CH2Cl2, and then trichloroacetic acid (5.2 mg, 0.03 mmol) is added, followed by aniline (5.8 uL, 0.06 mmol). The reaction mixture is heated in a Biotage microwave instrument at 100° C. for 2 hours. The mixture is purified by a semi-preparative HPLC to give 2.2 mg of product as solids. MS (ESI) m/z 507.2 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-1-chloro-5-methyl-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | approx. 0.03 mmol | ClC=1N(C=C2C(N(C=3N(C21)[C@@H]2[C@H](N3)CCC2)C)=O)CC2=CC=C(C=C2)C2=NC(=CC=C2)F | C24H21ClFN5O
reactant | trichloroacetic acid | 0.03 mmol, 5.2 mg | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | aniline | 0.06 mmol, 5.8 uL | NC1=CC=CC=C1 | C6H7N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-1-(phenylamino)-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | 2.2 mg | CN1C=2N(C=3C(C1=O)=CN(C3NC3=CC=CC=C3)CC3=CC=C(C=C3)C3=NC(=CC=C3)F)[C@@H]3[C@H](N2)CCC3 | C30H27FN6O
